US04766115
A solution of 1.91 g of cyanogen bromide in 20 ml of chloroform is added dropwise at 5°-10° C. within 25 minutes to a solution, cooled to 5° C., of 7 g of 6,7-dihydro-5H-dibenz[c,e]azepine in 50 ml of chloroform. The reaction mixture is stirred for a further 1 hour and then a small amount of the hydrobromide salt of the still unreacted azepine is filtered off. The filtrate is washed three times with water, dried over anhydrous sodium sulphate and evaporated. There is obtained solid 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile, m.p. 123°-126° C.

reactant | cyanogen bromide | 1.91 g | N#CBr | CBrN
reactant | 6,7-dihydro-5H-dibenz[c,e]azepine | 7 g | C1=CC=CC=2CNCC3=C(C21)C=CC=C3 | C14H13N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
